US07098212B2
2-(4-Chloro-2-isoxazol-5-yl-phenoxy)-1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-ethanone
To a solution of (2-chloro-1-[4-(4-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-ethanone (0.30 g, 1.0 mmol) in acetonitrile (10 mL) was added potassium carbonate (0.207 g, 1.5 mmol), potassium iodide (0.033 g, 0.20 mmol) and 4-chloro-2-isoxazol-5-yl-phenol (0.215 g, 1.1 mmol). The resulting mixture was stirred for 18 hours at ambient temperature. The reaction was diluted with tetrahydrofuran (10 mL), filtered and concentrated in vacuo to give the title compound (0.465 g).

reactant | 2-chloro-1-[4-(4-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-ethanone | 1.0 mmol, 0.30 g | ClCC(=O)N1C(CN(C(C1)C)CC1=CC=C(C=C1)F)C | C15H20ClFN2O
reactant | potassium carbonate | 1.5 mmol, 0.207 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.20 mmol, 0.033 g | [I-].[K+]
reactant | 4-chloro-2-isoxazol-5-yl-phenol | 1.1 mmol, 0.215 g | ClC1=CC(=C(C=C1)O)C1=CC=NO1 | C9H6ClNO2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-(4-Chloro-2-isoxazol-5-yl-phenoxy)-1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-ethanone | 0.465 g | ClC1=CC(=C(OCC(=O)N2[C@@H](CN([C@H](C2)C)CC2=CC=C(C=C2)F)C)C=C1)C1=CC=NO1 | C24H25ClFN3O3
